US08461175B2
4-{[5-(2,6-difluorophenyl)-7-(hydroxymethyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide
194 mg of 4-{[5-(2,6-difluorophenyl)-7-(hydroxymethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide are introduced into 25 ml of DCM. After cooling to 0° C. using an ice bath, 1.9 ml of TFA are added and the mixture is stirred at RT for 2 h 30 min. It is concentrated under RP and the solid obtained is taken up in 50 ml of water, neutralized with 2.5 ml of 7.5M aqueous ammonia solution. It is extracted with ethyl acetate, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/methanol/NH4OH mixture (90/10/1 by volume). This gives 28 mg of 4-{[5-(2,6-difluorophenyl)-7-(hydroxymethyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide. 1H NMR: 1.60-1.73 (m, 2 H) 2.05-2.16 (m, 2 H) 2.62-2.73 (m, 2 H) 3.46 (d, J=11.2 Hz, 2 H) 3.64-3.76 (m, 1 H) 4.63 (d, J=5.4 Hz, 2 H) 5.34 (t, J=5.9 Hz, 1 H) 5.75 (s, 1 H) 5.91 (d, 1 H) 6.70 (s, 2 H) 7.32 (t, 2 H) 7.59 (s, 1 H) 7.61-7.71 (m, 1 H) 7.84 (dd, 1 H) 8.35 (d, J=8.3 Hz, 1 H) 12.66 (s, 1 H).

reactant | 4-{[5-(2,6-difluorophenyl)-7-(hydroxymethyl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide | 194 mg | FC1=C(C(=CC=C1)F)C1=NC=2C(C=3C=CC(=CC13)CO)=NN(C2NC2CCN(CC2)S(=O)(=O)N)COCC[Si](C)(C)C | C28H36F2N6O4SSi
reactant | DCM | 25 ml | C(Cl)Cl | CH2Cl2
reactant | TFA | 1.9 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ammonia | 7.5M, 2.5 ml | N | H3N
solvent | water | 50 ml | O | H2O
product | 4-{[5-(2,6-difluorophenyl)-7-(hydroxymethyl)-1H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-sulphonamide | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)CO)NN=C2NC2CCN(CC2)S(=O)(=O)N | C22H22F2N6O3S
